US09023844B2
To a mixture of N-{4-[2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidin-3-yl]pyridin-2-yl}acetamide (120 mg, 0.34 mmol, 1 eq) in 2 mL of ethanol is added sodium borohydride (29 mg, 0.76 mmol, 2.2 eq). The mixture is refluxed for 1 h. The mixture is then poured into water, extracted with dichloromethane (3×20 mL), dried over anhydrous magnesium sulphate, filtered and concentrated under reduced pressure. The crude material is purified by column chromatography using silica gel in heptane and ethyl acetate (1:0 to 0:1) as eluent and 30 mg (25%) of N-{4-[2-(4-fluorophenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl]pyridin-2-yl}acetamide are obtained as a white solid.

reactant | N-{4-[2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidin-3-yl]pyridin-2-yl}acetamide | 0.34 mmol, 120 mg, 1 eq | FC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1C1=CC(=NC=C1)NC(C)=O | C19H14FN5O
reactant | sodium borohydride | 0.76 mmol, 29 mg, 2.2 eq | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-{4-[2-(4-fluorophenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl]pyridin-2-yl}acetamide | 30 mg, 25% | FC1=CC=C(C=C1)C1=NN2C(NCCC2)=C1C1=CC(=NC=C1)NC(C)=O | C19H18FN5O
